US08110581B2
2-(trans-4-Hydroxycyclohexyl)-7-[5-(trifluoromethyl)pyridin-2-yl]-2,7-diazaspiro[4.5]decan-1-one
A mixture of 2-(trans-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one hydrochloride (5 mg, 0.00002 mol), 2-chloro-5-(trifluoromethyl)pyridine (6 mg, 0.00003 mol), and triethylamine (20 μL, 0.0001 mol) in N-methylpyrrolidinone (800 μL, 0.008 mol) was microwave irradiated at 180° C. for 10 min. After cooling, it was purified by prep.-HPLC to afford 1.7 mg of the desired product. LC-MS: 398.3 (M+H)+.

reactant | 2-(trans-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one hydrochloride | 0.00002 mol, 5 mg | Cl.O[C@@H]1CC[C@H](CC1)N1C(C2(CC1)CNCCC2)=O
reactant | 2-chloro-5-(trifluoromethyl)pyridine | 0.00003 mol, 6 mg | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | triethylamine | 0.0001 mol, 20 μL | C(C)N(CC)CC | C6H15N
reactant | N-methylpyrrolidinone | 0.008 mol, 800 μL | CN1C(CCC1)=O | C5H9NO
product | 2-(trans-4-Hydroxycyclohexyl)-7-[5-(trifluoromethyl)pyridin-2-yl]-2,7-diazaspiro[4.5]decan-1-one | 1.7 mg | O[C@@H]1CC[C@H](CC1)N1C(C2(CC1)CN(CCC2)C2=NC=C(C=C2)C(F)(F)F)=O | C20H26F3N3O2
